US04797370
1. B. 4-(N-(2-trimethylsilylethyloxycarbonyl)-2-aminoethyl)imidazole (I)
1.84 g (10 mmol) of histamine dihydrochloride is slurried in 50 ml of methylene chloride, and 6.2 ml (44 mmol) of triethylamine is added. The thus resultant mixture is added portionwise to 2-trimethylsilylethylchloroformate in toluene (prepared as described above) at 10°-15° C. The reaction mixture is stirred at room temperature overnight. Undissolved material is filtered off and identified by NMR as being triethylamine hydrochloride. The toluene solution is evaporated, the residue then being slurried in 30 ml of ethyl acetate. 1.0 g of undissolved triethylamine hydrochloride is removed by filtration. The ethyl acetate solution is evaporated, and the residue is slurried twice in petroleum ether. The petroleum ether solutions are evaporated and 1.0 g of a semicrystalline product is obtained; by NMR analysis this product is identified as being histamine in which both the amino group and ring nitrogen have been acylated with 2-trimethylsilylethylchloroformate. The acyl group on the ring nitrogen is removed by treatment of the product for 2 hours with 100 μl of triethylamine in 50 ml of methanol. The solution is evaporated to leave an oil which is transformed into white crystals by treatment with 30 ml of ether. More precipitate is obtained upon addition of 75 ml petroleum ether. 560 mg of I is obtained upon filtration. The structure of the product is established with the aid of its NMR spectrum. 1H NMR spectrum (CDCl3) expressed as values: 2H 7.60 s, 5H 6.82 s, --NH-- 5.20, --CH2CH2 --O-- 4.15 t, --OCONHCH2 -- 3.50 m, 4-CH2 -imidazole 2.82 t, SiCH2CH2 1.00 t, (CH3)3Si 0.03 s.

reactant | histamine | NCCC1=CNC=N1 | C5H9N3
reactant | 2-trimethylsilylethylchloroformate | C[Si](CCOC(=O)Cl)(C)C | C6H13ClO2Si
solvent | ether | 30 ml | CCOCC | C4H10O
product | 4-(N-(2-trimethylsilylethyloxycarbonyl)-2-aminoethyl)imidazole | C[Si](CCOC(=O)NCCC=1N=CNC1)(C)C | C11H21N3O2Si
